US07015218B1
4-Fluorophenylhydrazine (7.75 g) and ethyl diacetoacetate (10.6 g) were added to ethanol (30 ml) and the mixture was refluxed for 3 h. The solvent was evaporated under reduced pressure and diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-diisopropyl ether to give ethyl 1-(4-fluorophenyl)-3,5-dimethylpyrazole-4-carboxylate (15.5 g), melting point: 59–60° C.

reactant | 4-Fluorophenylhydrazine | 7.75 g | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | ethyl diacetoacetate | 10.6 g | CCOC(=O)C(C(=O)C)C(=O)C | C8H12O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 1-(4-fluorophenyl)-3,5-dimethylpyrazole-4-carboxylate | 15.5 g | FC1=CC=C(C=C1)N1N=C(C(=C1C)C(=O)OCC)C | C14H15FN2O2
